US07964732B2
Step A11G: (S)-1-(1-methyl-5-(trifluoromethyl)-1H-pyrazol-4-yl)ethanamine Dihydrochloride
(R)-N-((S)-1-(1-methyl-5-(trifluoromethyl)-1H-pyrazol-4-yl)ethyl)-2-methylpropane-2-sulfinamide (0.66 g, 0.0022 mole) was dissolved in HCl in dioxane (4M, 12 ml) and the solution stirred at RT overnight under nitrogen. The solution was evaporated and the residue suspended in ether and the white solid filtered off under a blanket of nitrogen. Yield 420 mg, 71% (hygroscopic). 1H NMR (400 MHz CD30D) δ 7.73 (s, 1H) 4.67, 4.65, 4.63, 4.62 (q, 1H) 4.02 (s, 3H) 1.62, 1.60 (d, 3H). MS (ESI) m/z 194 (M+H)+ 177 (M+H—NH3)+. TLC CH2Cl2:MeOH:NH4OH 95:5:0.5 0.2 UV−ve KMnO4+ve. The free base was isolated using a SCX column eluting with methanol and then methanolic ammonia (1M) to release the amine. [α]D=−11.43° (c 5.25, CH3OH).

reactant | (R)-N-((S)-1-(1-methyl-5-(trifluoromethyl)-1H-pyrazol-4-yl)ethyl)-2-methylpropane-2-sulfinamide | 0.0022 mole, 0.66 g | CN1N=CC(=C1C(F)(F)F)[C@H](C)N[S@](=O)C(C)(C)C | C11H18F3N3OS
reactant | HCl | Cl | ClH
solvent | dioxane | 4M, 12 ml | O1CCOCC1 | C4H8O2
product | (S)-1-(1-methyl-5-(trifluoromethyl)-1H-pyrazol-4-yl)ethanamine Dihydrochloride | Cl.Cl.CN1N=CC(=C1C(F)(F)F)[C@H](C)N | InChI=1S/C7H10F3N3.2ClH/c1-4(11)5-3-12-13(2)6(5)7(8,9)10;;/h3-4H,11H2,1-2H3;2*1H/t4-;;/m0../s1
